US06124298
N,N,N',N',-tetrakis(2-hydroxyethyl)pyrazine-2,3-dicarboxamide
Methyl pyrazine-2,3-dicarboxylate (2 g, 10.2 mmol) was dissolved in EtOH (5 mL). Diethanolamine (2.14 g, 20.4 mmol) was added and the mixture was heated under reflux for 5 h. After cooling the solvent was evaporated and the residue was purified by silica gel chromatography (CHCl3 /MeOH, 8:2) to afford the title compound (2.5 g, 71.4%).

reactant | Methyl pyrazine-2,3-dicarboxylate | 10.2 mmol, 2 g | N1=C(C(=NC=C1)C(=O)[O-])C(=O)OC
reactant | Diethanolamine | 20.4 mmol, 2.14 g | N(CCO)CCO | C4H11NO2
solvent | EtOH | 5 mL | CCO | C2H6O
product | N,N,N',N',-tetrakis(2-hydroxyethyl)pyrazine-2,3-dicarboxamide | 2.5 g, 71.4% | OCCN(C(=O)C1=NC=CN=C1C(=O)N(CCO)CCO)CCO | C14H22N4O6
